US07265245B2
2′,4′-difluoro-4-(ethylcarbonyloxy)-5-iodo-[1,1′]biphenyl-3-carboxylic acid
0.928 g (0.0086 mmol) of ethyl chloroformate was added to a mixture of 2.5 g (0.0061 mmol) of 5-(2,4-difluorophenyl)-3-iodo-salicylic acid in 6 ml of benzene and 1.728 g (0.014 mmol) of dimethylaniline. The mixture was stirred at room temperature for 3 hr. Ice and a solution of 2.5 N of HCl were added. It was extracted with dichloromethane and the organic phase was dried over magnesium sulphate. The solvent was evaporated at low pressure and the crude was recrystalized from a chloroform-hexane mixture.

reactant | ethyl chloroformate | 0.0086 mmol, 0.928 g | ClC(=O)OCC | C3H5ClO2
reactant | 5-(2,4-difluorophenyl)-3-iodo-salicylic acid | 0.0061 mmol, 2.5 g | FC1=C(C=CC(=C1)F)C1=CC(=C(C(C(=O)O)=C1)O)I | C13H7F2IO3
reactant | dimethylaniline | 0.014 mmol, 1.728 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | HCl | 2.5 N | Cl | ClH
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 2′,4′-difluoro-4-(ethylcarbonyloxy)-5-iodo-[1,1′]biphenyl-3-carboxylic acid | FC1=C(C=CC(=C1)F)C1=CC(=C(C(=C1)I)OC(=O)CC)C(=O)O | C16H11F2IO4
